data/mechanisms/records/IMS4-EQ4.14.json
{"mechanism_id": "IMS4-EQ4.14", "species": [{"species_id": "pentan_3_one_molecular_ion", "mapped_smiles": "[CH3:1][CH2:2][C:3](=[O+:4])[CH2:5][CH3:6]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "propanoyl_cation", "mapped_smiles": "[CH3:6][CH2:5][C:3]#[O+:4]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "ethyl_radical", "mapped_smiles": "[CH3:1][CH2:2]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["pentan_3_one_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["propanoyl_cation", "ethyl_radical"]}], "steps": [{"step_id": "step_alpha_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [4]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_4_14", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 59, "equation": "4.14", "figure": null, "panel": null, "section": "4.6 Radical-site initiation (alpha-cleavage)"}, "confidence": 0.9, "curator_note": "Book draws 3 arc(s); moves <1,2,3> are all drawn on the page and none is implicit: (1) a fishhook from the odd electron on the n-ionized oxygen (the printed '+.' sits on O, the C=O double bond is drawn intact) into the C(3)-O(4) bond, (2) a fishhook from the C(2)-C(3) sigma bond into that same C-O bond (its barb lands next to the first, so the C-O bond receives two electrons and rises from double to triple), and (3) a fishhook from the C(2)-C(3) sigma bond back onto the departing C2H5 group. The precursor SMILES localizes the charge and the odd electron on the oxygen exactly as printed. Only one of the two equivalent ethyl groups is shown reacting; the acylium retains the other."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 86.0726, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_57", "species_id": "propanoyl_cation", "step_id": "step_alpha_cleavage", "observed_mz": 57.0335, "relative_intensity": 1.0, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.95}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-23T00:00:00Z", "modified_at": "2026-07-23T00:00:00Z"}}
